US06214533B1
Aqueous solution of sodium hydroxide 8.8 g (0.22 mol) in 15 ml of water was added to a mixture of 2-mercapto-5-methyl-1,3,4-thiadiazole 26.4 g (0.20 mol), chloroacetic acid 27.0 g (0.22 mol) and ethanol 300 ml with stirring at room temperature. After 20 minutes of stirring it was heated to 50° C., and further aqueous solution of sodium hydroxide 8.8 g (0.22 mol) in 15 ml of water was added slowly drop by drop. After stirring for 3 hours at 50° C., it was cooled to room temperature, and water was added till reaction liquid became uniform. Hydrochloric acid was added for neutralization. Prepared crystal was collected by filtration and 28.7 g (0.150 mol) of 2-carboxymethylthio-5-methyl-1,3,4-thiadiazole was obtained by recrystallization in methanol. Yield 75%.

reactant | sodium hydroxide | 0.22 mol, 8.8 g | [OH-].[Na+]
reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | 0.20 mol, 26.4 g | SC=1SC(=NN1)C | C3H4N2S2
reactant | chloroacetic acid | 0.22 mol, 27.0 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 0.22 mol, 8.8 g | [OH-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-carboxymethylthio-5-methyl-1,3,4-thiadiazole | 0.150 mol, 28.7 g, Yield 75% | C(=O)(O)CSC=1SC(=NN1)C | C5H6N2O2S2
